US07687646B2
To a stirred suspension of 3-bromopropyltriphenylphosphonium bromide (Olo-IM3) (420 g, 0.90 mol) in absolute ethanol (664 g) a solution of dimethylamine in absolute ethanol (368 g, 2.69 mol, assay: 33%) was added slowly within 30 minutes at room temperature. After complete addition the suspension was stirred 1 hour at reflux whereupon a solution was obtained. The solution was cooled to a temperature of 0-10° C. and acetyl bromide (202.7 g, 1.65 mol) was added dropwise until the pH was ≦1, and the resulting suspension was allowed to warm to 20-25° C. After the white suspension was filtered the wet product washed with absolute ethanol (237 g) and then dried under vacuum (15 h, 70° C.) to give 3-dimethylaminopropyltriphenylphosphonium bromide*HBr (Olo-IM4) as a white solid (yield: 471.2 g, 0.77 mol, 85.1%; HPLC assay: 83.2%, HPLC purity: 98.72%).

reactant | 3-bromopropyltriphenylphosphonium bromide | 0.90 mol, 420 g | [Br-].BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | dimethylamine | CNC | C2H7N
reactant | acetyl bromide | 1.65 mol, 202.7 g | C(C)(=O)Br | C2H3BrO
solvent | ethanol | 664 g | C(C)O | C2H6O
solvent | ethanol | 2.69 mol, 368 g | C(C)O | C2H6O
product | 3-dimethylaminopropyltriphenylphosphonium bromide | [Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C23H27NP.BrH/c1-24(2)19-12-20-25(21-13-6-3-7-14-21,22-15-8-4-9-16-22)23-17-10-5-11-18-23;/h3-11,13-18H,12,19-20H2,1-2H3;1H/q+1;/p-1
